US03954771
Preparation of N-formyl-N-methyl-2-phenyl-acetamide (new compound)
In this case, the yield of N-methyl-2H-3-isoquinolone, with a melting point of 235°-236°C., calculated upon the amount of phenacetyl chloride used, reaches 40- 45%.

reactant | N-methyl-2H-3-isoquinolone | CN1C=C2C=CC=CC2=CC1=O | C10H9NO
reactant | phenacetyl chloride | C1=CC=C(C=C1)CC(=O)Cl | C8H7ClO
product | N-formyl-N-methyl-2-phenyl-acetamide | C(=O)N(C(CC1=CC=CC=C1)=O)C | C10H11NO2
